US07119207B2
6-Hydroxy-1-methyl-3,4-dihydro-1H-quinolin-2-one
5.74 ml of 1.0 M BBr3/CH2Cl2 solution was added to a dry CH2Cl2 solution of 6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one (500 mg, 2.62 mmol) under nitrogen. The reaction mixture was stirred for 2 hours, poured into ice water and extracted with ethyl acetate (150 ml). The combined organic extract was washed with brine,dried (MgSO4) and the solvent was evaporated under reduced pressure to yield the title compound as a pink solid (392 mg, 84%). 1H NMR (400 MHz, CD3OD) δ 2.52–2.56 (2H, m), 2.77–2.81 (2H, m), 3.28 (3H, s), 6.62–6.67 (2H, m), 6.92 (1H, d, J=8.72 Hz). m/z (APCI−) 176 (M−1). HPLC (aqueous 200 Mm ammonium acetate buffer/acetonitrile gradient, 3.0 ml/min, Hewlett Packard ODS Hypersil 5 μM, 125×4 mm column), 2.51 minutes.

reactant | BBr3 CH2Cl2 | 1.0 M, 5.74 ml | B(Br)(Br)Br.C(Cl)Cl
reactant | 6-methoxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 2.62 mmol, 500 mg | COC=1C=C2CCC(N(C2=CC1)C)=O | C11H13NO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-1-methyl-3,4-dihydro-1H-quinolin-2-one | 392 mg, 84% | OC=1C=C2CCC(N(C2=CC1)C)=O | C10H11NO2
